US07414140B2
Fluvastatin methyl ester (2.0 g) was added to a mixture of NaOH (1 eq.) and butan-1-ol (15 ml). The mixture was stirred at about 80° C. for 1.5 h, after which the starting material was not detected by HPLC. Then, 40 ml of acetone was dripped into the solution and the mixture was cooled slowly to room temperature and stirred overnight. The product was isolated by filtration under nitrogen, washed with acetone (20 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 1.09 g (53.5%) of fluvastatin sodium Form VII.

reactant | Fluvastatin methyl ester | 2.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | NaOH | 1 eq. | [OH-].[Na+]
reactant | butan-1-ol | 15 ml | C(CCC)O | C4H10O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | fluvastatin sodium | 1.09 g, 53.5% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
